US08058045B2
A mixture of 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile (124 mg, 0.533 mmol), tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (228 mg, 1.066 mmol) and triethylamine (150 μL, 1.07 mmol) in 1-methyl-2-pyrrolidinone (1 mL) was heated at 145° C. for 15 minutes using microwave irradiation. The mixture was concentrated in vacuo and the residue purified by preparative HPLC. The purified solid was dissolved in dichloromethane (2 mL) and trifluoroacetic acid (3 mL) and was stirred for 1 hour at room temperature before being applied to a MP-TsOH cartridge. After washing with methanol, the pure product was eluted using 7M ammonia to give 5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)pyrazine-2-carbonitrile (10.3 mg, 6%).

reactant | 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile | 0.533 mmol, 124 mg | ClC1=CC(=NC=N1)NC=1N=CC(=NC1)C#N | C9H5ClN6
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 1.066 mmol, 228 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 1.07 mmol, 150 μL | C(C)N(CC)CC | C6H15N
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)pyrazine-2-carbonitrile | 10.3 mg, 6% | N1CCC(CC1)CNC1=CC(=NC=N1)NC=1N=CC(=NC1)C#N | C15H18N8
